US09163155B2
Synthesis of 4-pyrrolidinopyridine-2,6-dicarboxylic acid (Pyrrodpa)
4-chloropyridine-2,6-dicarboxylic acid (0.238 mol, 48.0 g) is slowly added under stirring to a solution of pyrrolidine (0.952 mol, 67.8 g) at room temperature. Take care to avoid a too-fast addition leading to local temperature increase. Observe precipitation of a solid. The reaction mixture is heated at 120° C. for 2 hr. By gradually heating, the reaction mixture becomes solid. After cooling at 60° C., H20 (80 ml) is added and the mixture is stirred for 30 min until the solid is completely dissolved. The solution is then acidified with HCl (2M) until pH=1. The formed precipitate is filtered, washed twice H2O and dried overnight at 70° C. (93%).

reactant | 4-chloropyridine-2,6-dicarboxylic acid | 0.238 mol, 48.0 g | ClC1=CC(=NC(=C1)C(=O)O)C(=O)O | C7H4ClNO4
reactant | pyrrolidine | 0.952 mol, 67.8 g | N1CCCC1 | C4H9N
product | 4-pyrrolidinopyridine-2,6-dicarboxylic acid | N1(CCCC1)C1=CC(=NC(=C1)C(=O)O)C(=O)O | C11H12N2O4
